US07576103B2
6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ol (0.65 g, 2.26 mmol) was dissolved in 50 mL toluene, and 1 mL of thionyl chloride was added. The reaction was refluxed for one hour, and then cooled. Solvent was removed under reduced pressure to yield 6-benzenesulfonyl-1-chloro-1,2,3,4-tetrahydro-naphthalene (0.6 g, 86.3%) as a crude oil. MS: 308 (M+H)+.

reactant | 6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ol | 2.26 mmol, 0.65 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)O | C16H16O3S
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-benzenesulfonyl-1-chloro-1,2,3,4-tetrahydro-naphthalene | 0.6 g, 86.3% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)Cl | C16H15ClO2S
